US06235771B1
To a solution of N-ethylaniline (10.0 g) in DMF (50 ml) was added dropwise at room temperature a solution of N-bromosuccinimide (14.69 g) in DMF (100 ml), and the mixture was stirred at room temperature for 19 hours. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried with magnesium sulfate and concentrated under reduced pressure to give pale yellow oil of 4-bromo-N-ethylaniline (17.08 g).

reactant | N-ethylaniline | 10.0 g | C(C)NC1=CC=CC=C1 | C8H11N
reactant | N-bromosuccinimide | 14.69 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-bromo-N-ethylaniline | 17.08 g | BrC1=CC=C(NCC)C=C1 | C8H10BrN
